US04663453
5-Bromo-7-(4-methyl-1-piperazinyl)-2,3-dihydro-1H-quino[1,8-ab][1,5]benzodiazepine
A stirred mixture of 4-methyl-N-[2-(6-bromo-1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazine-carboxamide (14.2 g, 0.0330 mole) in phosphorus oxychloride (250 ml) was heated under reflux under nitrogen for 5 hours. The reaction mixture was cooled to room temperature and excess phosphorous oxychloride was removed at aspirator pressure with heating. The residue was chilled in an ice-bath (with exclusion of moisture), and treated with ice-cold 2N sodium hydroxide solution (250 ml) and dichloromethane (500 ml). The mixture was stirred, the organic phase was separated, washed with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was digested in boiling methanol (40 ml) to afford 10.7 g (79%) of product. Recrystallization from ethanol provided the analytical sample, mp 181°-183° C.

reactant | 4-methyl-N-[2-(6-bromo-1,2,3,4-tetrahydro-1-quinolinyl)phenyl]piperazine-carboxamide | 0.0330 mole, 14.2 g | CN1CCN(CC1)C(=O)NC1=C(C=CC=C1)N1CCCC2=CC(=CC=C12)Br | C21H25BrN4O
solvent | phosphorus oxychloride | 250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Bromo-7-(4-methyl-1-piperazinyl)-2,3-dihydro-1H-quino[1,8-ab][1,5]benzodiazepine | 10.7 g, 79% | BrC=1C=C2CCCN3C2=C(C(=NC2=C3C=CC=C2)N2CCN(CC2)C)C1 | C21H23BrN4
